US04154753
Tetrafluoroethylene tetramer (40 g) was added dropwise to the potassium salt of p-cresol (15 g) stirred in dry dimethyl formamide (100 ml) at 25° C. to 30° C. After addition of the tetramer, the reaction mixture was stirred at 35° C. to 40° C. for two hours. The cooled reaction mixture was poured into water, and worked up as above to give 33 g of the -cresyl ether, C8F15OC6H4CH3, boiling point 104° C. to 106° C. at 12 mm Hg. Elementary analysis, infra-red spectra, mass spectrometry and nuclear magnetic resonance measurements confirmed the identity of the compound.

reactant | Tetrafluoroethylene | FC(=C(F)F)F | C2F4
reactant | potassium | [K] | K
reactant | p-cresol | 15 g | C1=CC(=CC=C1O)C | C7H8O
reactant | water | O | H2O
solvent | dimethyl formamide | 100 ml | CN(C=O)C | C3H7NO
product | cresyl ether | C1(=CC=C(C=C1)C)OC1=CC=C(C=C1)C | C14H14O
